US09079880B2
Add ethyl 3-iodobenzoate (1.5 mL, 8.9 mmol), potassium carbonate (1.3 g, 9.4 mmol) and copper (I) iodide (0.17 g, 0.89 mmol) to a solution of D-proline (1.00 g, 8.69 mmol) in N,N-dimethylacetamide (20 mL). Bubble Argon through the mixture for 30 min then heat the reaction to 90° C. for 15 hours. Cool the mixture to room temperature, dilute with water, and filter to remove insoluble material. Wash the filtrate with diethyl ether and adjust the pH of the aqueous phase to slightly acidic by the addition of a 2 N solution of hydrochloric acid. Extract the mixture with methylene chloride and wash the combined organic phase with brine. Dry over anhydrous sodium sulfate and concentrate under reduced pressure to provide an oil. Re-dissolve the material in methylene chloride and concentrate under a stream of nitrogen to provide 0.44 g (19.2%) of (R)-1-(3-ethoxycarbonyl-phenyl)-pyrrolidine-2-carboxylic acid as an oil.

reactant | ethyl 3-iodobenzoate | 8.9 mmol, 1.5 mL | IC=1C=C(C(=O)OCC)C=CC1 | C9H9IO2
reactant | potassium carbonate | 9.4 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | D-proline | 8.69 mmol, 1.00 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
catalyst | copper (I) iodide | 0.89 mmol, 0.17 g | [Cu]I
product | (R)-1-(3-ethoxycarbonyl-phenyl)-pyrrolidine-2-carboxylic acid | 0.44 g, 19.2% | C(C)OC(=O)C=1C=C(C=CC1)N1[C@H](CCC1)C(=O)O | C14H17NO4
